US03944546
31.8 g. (0.3 mol.) of thioacetic acid methyl ester are added to 150 ml. (0.3 mol.) of 2N sodium methylate solution. 22.6 g. (0.3 mol.) of chloroacetonitrile dissolved in 30 ml. of methanol are added dropwise while cooling and stirring. It is stirred overnight then refluxed for 30 minutes. The reaction mixture is cooled and the solvent is evaporated. 100 ml. of water are added to the residue and the aqueous solution is extracted twice with ether. The combined ether extracts are decolorized with activated carbon and dried with magnesium sulfate. The ether is distilled off and the residue is distilled under vacuum. 30.5 g. of 2-[(cyanomethyl)thio]-acetic acid methyl ester are obtained b.p.10mm 132°-134°.

reactant | thioacetic acid methyl ester | 0.3 mol | COC(C)=S | C3H6OS
reactant | sodium methylate | 0.3 mol, 2N | C[O-].[Na+]
reactant | chloroacetonitrile | 0.3 mol | ClCC#N | C2H2ClN
reactant | methanol | CO | CH4O
product | 2-[(cyanomethyl)thio]-acetic acid methyl ester | COC(CSCC#N)=O | C5H7NO2S
